US06420426B1
To a stirring slurry of 5-cyano-4-fluoro-2-methoxy-benzoic acid (1.92 g, 9.8 mmol) in dichloromethane (20 mL, 0.5 M) was added oxalyl chloride (2.57 mL, 29.5 mmol) and DMF (1 drop). The mixture was heated to 40° C. until the solution was clear (1-2 h). Next, the mixture was allowed to cool to room temperature, concentrated under reduced pressure, and then diluted with dichloromethane (20 mL, 0.5 M). To the stirring mixture at 0° C. was added diisopropylethyl amine (4.3 mL, 24.6 mmol) followed by 3-nitrobenzylamine hydrochloride salt (2.78 g, 14.8 mmol). The stirring under nitrogen, the solution was gradually warmed to room temperature and stirred overnight. The mixture was then diluted with dichloromethane and washed with 2N HCl (3×25 mL) and saturated aq NaCl (2×25 mL). The organic layer was dried over Na2SO4, filtered, and concentrated to afford a yellow oil. Purification by MPLC (10-100% ethyl acetate in heptane, 23 mL/min, 75 min) provided [5-cyano-4-fluoro-2-methoxy-N-(3-nitro-benzyl)-benzamide (2.0 g, 63%) as a yellow solid: 1H NMR (DMSO-d6, 300 MHz) δ 8.55 (d, J=7.5 Hz, 1H), 8.19 (s, 1H), 8.15 (d, J=8.4 Hz, 1H), 7.96 (bd s, 1H), 7.70 (d, J=6.3 Hz, 1H), 7.54 (t, J=8.0 Hz, 5H), 6.86 (d, J=10.5 Hz, 1H), 4.76 (d, J=5.4 Hz, 1H), 4.07 (d, J=1.2 Hz, 3H).

reactant | 5-cyano-4-fluoro-2-methoxy-benzoic acid | 9.8 mmol, 1.92 g | C(#N)C=1C(=CC(=C(C(=O)O)C1)OC)F | C9H6FNO3
reactant | oxalyl chloride | 29.5 mmol, 2.57 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diisopropylethyl amine | 24.6 mmol, 4.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-nitrobenzylamine hydrochloride salt | 14.8 mmol, 2.78 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
solvent | dichloromethane | 0.5 M, 20 mL | ClCCl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 5-cyano-4-fluoro-2-methoxy-N-(3-nitro-benzyl)-benzamide | 2.0 g, 63% | C(#N)C=1C(=CC(=C(C(=O)NCC2=CC(=CC=C2)[N+](=O)[O-])C1)OC)F | C16H12FN3O4
